### PR TITLE
Full subtypes

### PR DESCRIPTION
**Pull request by emilyriehl**
This gives a preliminary definition of full subtypes together with a proof that the first projection is fully faithful. Note that nothing here requires any types to be categories so perhaps this should be elsewhere? Note also full subtypes are not packaged as a record, so there is a bit of an asymmetry with the subtypes api.

### CODE REVIEW

File: src/Core/Orthogonal.lagda.tree [hunk 1]
```diff
@@ -159,6 +160,13 @@ has-unique-extensions f P
   = ∀ (F : ArrFam-map f P)
     → is-singleton (Extᵈ f (P ∘ F .ArrFam-map.bot) (F .ArrFam-map.top))
 
+is-prop-Extᵈ-Subtype
+  : ∀ {𝓤 𝓥 𝓦 𝓜} {A : Type 𝓤} {B : Type 𝓥}
+      {C : Type 𝓦} (f : A → B)
+      (P : Subtype C 𝓜) → ∀ (F : ArrFam-map f (P .Subtype.family)) → is-prop (Extᵈ f (P .Subtype.family ∘ F .ArrFam-map.bot) (F .ArrFam-map.top))
```
Comment (samtoth) [inline src/Core/Orthogonal.lagda.tree]:
```suggestion
  : ∀ {𝓤 𝓥 𝓦 𝓜} {A : Type 𝓤} {B : Type 𝓥}
      {C : Type 𝓦} (f : A → B)
      (P : Subtype C 𝓜) 
      (F : ArrFam-map f (P .Subtype.family))
    → is-prop (Extᵈ f (P .Subtype.family ∘ F .ArrFam-map.bot) (F .ArrFam-map.top))
```

File: src/Core/Orthogonal.lagda.tree [hunk 2]
```diff
@@ -159,6 +160,13 @@ has-unique-extensions f P
...
+is-prop-Extᵈ-Subtype f P F = Σ-is-prop (Π-is-prop (P .Subtype.family-is-subtype ∘ F .ArrFam-map.bot)) λ a → Π-is-prop λ a'  → ＝-is-prop (((P .Subtype.family-is-subtype ∘ F .ArrFam-map.bot) ∘ f) a') _ _
```
Comment (samtoth) [inline src/Core/Orthogonal.lagda.tree]: To keep to a line limit of 85 chars:

```suggestion
is-prop-Extᵈ-Subtype f P F
  = Σ-is-prop
      (Π-is-prop (P .Subtype.family-is-subtype ∘ F .ArrFam-map.bot))
      (λ a → Π-is-prop
        (λ a' → ＝-is-prop
                  (((P .Subtype.family-is-subtype ∘ F .ArrFam-map.bot) ∘ f) a') _ _))
```

File: src/Modalities/Cohesion/Sharp.lagda.tree [hunk 3]
```diff
@@ -311,23 +288,48 @@ modext♯-is-equiv
...
+\subtree[rie-1423]{
+\title{Sharp preserves propositions}
+\author{emilyriehl}
+\taxon{Lemma}
+
+\p{The modality #{\sharp} preserves propositions.}
+
+\agda{
+♯-is-prop : ∀ {𝓤} {@♯ A : Type 𝓤} → @♯ is-prop A → is-prop ⟨♯| A ⟩
+♯-is-prop f x y = modext♯ (mod♯ (f ((x .counit♯)) ((y .counit♯))))
```
Comment (samtoth) [inline src/Modalities/Cohesion/Sharp.lagda.tree]:
```suggestion
♯-is-prop f x y = modext♯ (mod♯ (f (x .counit♯) (y .counit♯)))
```

File: src/Synthetic/Categories/FullSubcategories.lagda.tree [hunk 4]
```diff
@@ -0,0 +1,130 @@
...
+\date{2026-06-09}
+\author{emilyriehl}
+\import{stt-macros}
+
+\agda{
+open import Foundations.Universes
+open import Algebra.Lattice
+
+module Synthetic.Categories.FullSubcategories
+
```
Comment (samtoth) [inline src/Synthetic/Categories/FullSubcategories.lagda.tree]:
```suggestion
```

File: src/Synthetic/Categories/FullSubcategories.lagda.tree [hunk 5]
```diff
@@ -0,0 +1,130 @@
...
+  {@♭ 𝓘} (@♭ Δ¹ : Type 𝓘) (@♭ I : Lattice Δ¹)
+  where
+
+open Lattice I renaming (0l to i0; 1l to i1)
+}
+
+\agda-imports{
+\agda{
+
```
Comment (samtoth) [inline src/Synthetic/Categories/FullSubcategories.lagda.tree]:
```suggestion
```

File: src/Synthetic/Categories/FullSubcategories.lagda.tree [hunk 6]
```diff
@@ -0,0 +1,130 @@
...
+homotopy-∂Δ¹-incl ∂Δ¹-1 = refl
+homotopy-∂Δ¹-incl ∂Δ¹-0 = refl
+}
+
+\subtree[rie-1234]{
+\title{Full subtypes}
+
+\p{Recall that a [subtype](Foundations.Subtypes) of a type #{A} is a family of propositions #{φ} indexed by #{A}. Formally, this data is given by a family of types that we abusively denote #{φ : A \to \UU} together with a proof that each type #{φ a} is a proposition for all #{a : A}. From this data, one may construct a type #{Σ_{A} φ} with an embedding #{Σ_{A} φ \to A}.}
+
+\p{Given a crisp type #{A :^\flat \UU} and a family of propositions #{φ} indexed by #{^\flat A}, the \em{full-subtype} is defined to be #{Σ_{A} \overline{φ}} where #{\overline{φ}} denotes the adjoint transpose of the family #{φ} under the adjunction #{\flat ⊣ \sharp}.}
```
Comment (samtoth) [inline src/Synthetic/Categories/FullSubcategories.lagda.tree]:
```suggestion
\p{Given a crisp type #{A :^\flat \UU} and a family of propositions #{φ} indexed by #{\flat A}, the \em{full-subtype} is defined to be #{Σ_{A} \overline{φ}} where #{\overline{φ}} denotes the adjoint transpose of the family #{φ} under the adjunction #{\flat ⊣ \sharp}.}
```

File: src/Synthetic/Categories/FullSubcategories.lagda.tree [hunk 7]
```diff
@@ -0,0 +1,130 @@
...
+
+homotopy-∂Δ¹-incl : (ε♭: Δ¹ ∘ ∂Δ¹-to-♭Δ¹) ~ ∂Δ¹-incl
+homotopy-∂Δ¹-incl ∂Δ¹-1 = refl
+homotopy-∂Δ¹-incl ∂Δ¹-0 = refl
+}
+
+\subtree[rie-1234]{
+\title{Full subtypes}
+
+\p{Recall that a [subtype](Foundations.Subtypes) of a type #{A} is a family of propositions #{φ} indexed by #{A}. Formally, this data is given by a family of types that we abusively denote #{φ : A \to \UU} together with a proof that each type #{φ a} is a proposition for all #{a : A}. From this data, one may construct a type #{Σ_{A} φ} with an embedding #{Σ_{A} φ \to A}.}
```
Comment (samtoth) [inline src/Synthetic/Categories/FullSubcategories.lagda.tree]: Can you line wrap these paragraphs

File: src/Synthetic/Categories/FullSubcategories.lagda.tree (hunk 6 above)
Comment (samtoth) [reply src/Synthetic/Categories/FullSubcategories.lagda.tree]: I think this definition should `#{Σ_{A} \sharp \overline{φ}}` where `\sharp` is the dependent sharp modal operator `\sharp Type -> Type`, since `\overline{φ}` has type `A \to \sharp Type`

File: src/Synthetic/Categories/FullSubcategories.lagda.tree [hunk 8]
```diff
@@ -0,0 +1,130 @@
...
+  full-subtype = Σ A (λ a → ⟨♯| mod♭ a ∈ φ ⟩)
+
+  full-subtype-incl : full-subtype → A
+  full-subtype-incl = fst
+
+  full-subtype-family : (a : A) → Type 𝓥
+  full-subtype-family a = ⟨♯| mod♭ a ∈ φ ⟩
+
+  is-prop-full-subtype-family : (a : A) → is-prop (full-subtype-family a)
+  is-prop-full-subtype-family a = ♯-is-prop (∈-is-prop φ (mod♭ a))
```
Comment (samtoth) [inline src/Synthetic/Categories/FullSubcategories.lagda.tree]: Our convention is to have things like `is-prop` or `is-equiv` as postfixes, so it reads a bit more like written English:


```suggestion
  full-subtype-family-is-prop : (a : A) → is-prop (full-subtype-family a)
  full-subtype-family-is-prop a = ♯-is-prop (∈-is-prop φ (mod♭ a))
```

File: src/Synthetic/Categories/FullSubcategories.lagda.tree [hunk 9]
```diff
@@ -0,0 +1,130 @@
...
+
+\agda{
+  module _ (ax : is-equiv ∂Δ¹-to-♭Δ¹) where
+
+    is-ff-full-subtype-incl : is-ff (full-subtype-incl )
+    is-ff-full-subtype-incl _ =
+      left-orthogonal-homotopy _ homotopy-∂Δ¹-incl
+        (left-orthogonal-∘ (ε♭: Δ¹) ∂Δ¹-to-♭Δ¹ _
+          (are-orthogonal-♭counit-full-subtype-incl Δ¹) (equiv⊥ ax _))
+}
```
Comment (samtoth) [inline src/Synthetic/Categories/FullSubcategories.lagda.tree]: This could be separated into its own tree, with a very brief informal proof

**Review by samtoth — CHANGES_REQUESTED** [review]
I have addressed some simple codestyle issues. 

To address the question about where this should go, I agree that it is more general than just full subcategories and should probably go in `Modalities.Cohesion` somewhere. To me it kind of looks like the factorisation of a map into an sharp-equivalence and a sharp-codiscrete map, except that would apply if the input data was a type family over A - not over `Flat A` - so I'm still not 100% sure what the right name for this module would be.

To me either of the following options would be acceptable:

 1) Leaving the entire thing in FullSubcategories - with a remark added that this is actually a more general concept, which we can abstract later/when we need it.
 
 2) Creating a module in Modalities.Cohesion, maybe called something like sharp-modal factorisation - but maybe we can come up with a better name. And then moving all of the non-category specific stuff there.

Maybe @fredrik-bakke might have some opinions on naming, as you were involved in the conversation in Sweden about what the correct generalisation of this concept is.

**Comment by fredrik-bakke** [comment]
> To address the question about where this should go, I agree that it is more general than just full subcategories and should probably go in `Modalities.Cohesion` somewhere. To me it kind of looks like the factorisation of a map into an sharp-equivalence and a sharp-codiscrete map, except that would apply if the input data was a type family over A - not over `Flat A` - so I'm still not 100% sure what the right name for this module would be.

I believe you meant to say the factorisation of a map into a sharp-connected map followed by a sharp-codiscrete map.

> To me either of the following options would be acceptable:
> 
>     1. Leaving the entire thing in FullSubcategories - with a remark added that this is actually a more general concept, which we can abstract later/when we need it.
> 
>     2. Creating a module in Modalities.Cohesion, maybe called something like sharp-modal factorisation - but maybe we can come up with a better name. And then moving all of the non-category specific stuff there.
> 
> 
> Maybe @fredrik-bakke might have some opinions on naming, as you were involved in the conversation in Sweden about what the correct generalisation of this concept is.


Is it the sharp image factorisation? If so I believe the correct place is `Modalities.Cohesion.SharpImage` Otherwise, let's put it in `FullSubcategories` for now and worry about it another time.

File: src/Synthetic/Categories/FullSubcategories.lagda.tree [hunk 10]
```diff
@@ -0,0 +1,130 @@
...
+
+  is-prop-full-subtype-family : (a : A) → is-prop (full-subtype-family a)
+  is-prop-full-subtype-family a = ♯-is-prop (∈-is-prop φ (mod♭ a))
+
+  Subtype-full-subtype : Subtype A 𝓥
+  Subtype-full-subtype = mk-subtype is-prop-full-subtype-family
+
+  are-orthogonal-fam-̱♭counit-full-subtype-family :
+    {@♭ 𝓦 : Level} → (@♭ X : Type 𝓦) → are-orthogonal-fam (ε♭: X) full-subtype-family
+  are-orthogonal-fam-̱♭counit-full-subtype-family X =
```
Comment (samtoth) [inline src/Synthetic/Categories/FullSubcategories.lagda.tree]:
```suggestion
  ε♭⊥full-subtype-family :
    ∀ {@♭ 𝓦} → (@♭ X : Type 𝓦) → are-orthogonal-fam (ε♭: X) full-subtype-family
  ε♭⊥full-subtype-family X =
```

**Comment by samtoth** [comment]
> I believe you meant to say the factorisation of a map into a sharp-connected map followed by a sharp-codiscrete map.

Yes I suppose so, but since sharp is lex these are the same.

> Is it the sharp image factorisation? If so I believe the correct place is `Modalities.Cohesion.SharpImage` Otherwise, let's put it in `FullSubcategories` for now and worry about it another time.

It's not exactly -- it would be if the input data was a family over `A` rather that `Flat A`. But with `Flat A` I am not really clear on what it is. So I suppose `FullSubcategories` is best for now

**Comment by fredrik-bakke** [comment]
Sounds good! 👍

File: src/Synthetic/Categories/FullSubcategories.lagda.tree (hunk 8 above)
Comment (emilyriehl) [reply src/Synthetic/Categories/FullSubcategories.lagda.tree]: Done.

File: src/Synthetic/Categories/FullSubcategories.lagda.tree (hunk 7 above)
Comment (emilyriehl) [reply src/Synthetic/Categories/FullSubcategories.lagda.tree]: Done.

File: src/Synthetic/Categories/FullSubcategories.lagda.tree (hunk 10 above)
Comment (emilyriehl) [reply src/Synthetic/Categories/FullSubcategories.lagda.tree]: Done.

File: src/Synthetic/Categories/FullSubcategories.lagda.tree (hunk 6 above)
Comment (emilyriehl) [reply src/Synthetic/Categories/FullSubcategories.lagda.tree]: I've edited the text as suggested. Let me know what you think.

File: src/Synthetic/Categories/FullSubcategories.lagda.tree (hunk 9 above)
Comment (emilyriehl) [reply src/Synthetic/Categories/FullSubcategories.lagda.tree]: I made this its own subtree called "Universal property of full subtypes" but included also the orthogonality with the flat counits. Note this means I copied some of the agda code from the FullSubtype module into a different subtree. Can modules span subtrees like this or should I close the first module and open a new one?

**Comment by emilyriehl** [comment]
> Sounds good! 👍

My understanding of this discussion is that I should not move this file for now. 

Note for future reference something else that should be moved later, which is the homotopy relating the flat counit and the boundary inclusion for the 1-simplex.

File: src/Synthetic/Categories/FullSubcategories.lagda.tree [hunk 11]
```diff
@@ -0,0 +1,157 @@
...
+}
+
+\subtree[rie-2718]{
+\title{Universal property of full subtypes}
+\author{emilyriehl}
+
+\p{The inclusion of a full subtype is orthogonal to all counits of the modality
+#{\sharp}. This orthogonality means that to define a map
+#{f : X \to Σ_{A} \overline{φ}} is to define a map #{f : \flat X → A} for which the
+elements #{f x} satisfy the predicate #{φ}.}
```
Comment (samtoth) [inline src/Synthetic/Categories/FullSubcategories.lagda.tree]: I believe that this should be something like: ... is to define a map #{f : X \to A} which when restricted to crisp elements, f(x) satisfies φ.

File: src/Synthetic/Categories/FullSubcategories.lagda.tree [hunk 12]
```diff
@@ -0,0 +1,157 @@
...
+∂Δ¹-to-♭Δ¹ ∂Δ¹-0 = mod♭ i0
+
+homotopy-∂Δ¹-incl : (ε♭: Δ¹ ∘ ∂Δ¹-to-♭Δ¹) ~ ∂Δ¹-incl
+homotopy-∂Δ¹-incl ∂Δ¹-1 = refl
+homotopy-∂Δ¹-incl ∂Δ¹-0 = refl
+}
+
+\subtree[rie-1234]{
+\title{Full subtypes}
+\author{emilyriehl}
```
Comment (samtoth) [inline src/Synthetic/Categories/FullSubcategories.lagda.tree:58]:
```suggestion
\author{emilyriehl}
\taxon{Definition}
```

File: src/Synthetic/Categories/FullSubcategories.lagda.tree [hunk 13]
```diff
@@ -0,0 +1,157 @@
...
+  full-subtype-family-is-prop a = ♯-is-prop (∈-is-prop φ (mod♭ a))
+
+  Subtype-full-subtype : Subtype A 𝓥
+  Subtype-full-subtype = mk-subtype full-subtype-family-is-prop
+}
+}
+
+\subtree[rie-2718]{
+\title{Universal property of full subtypes}
+\author{emilyriehl}
```
Comment (samtoth) [inline src/Synthetic/Categories/FullSubcategories.lagda.tree:97]:
```suggestion
\author{emilyriehl}
\taxon{Lemma}
```

File: src/Synthetic/Categories/FullSubcategories.lagda.tree (hunk 9 above)
Comment (samtoth) [reply src/Synthetic/Categories/FullSubcategories.lagda.tree]: This is okay, since it is a named module

**Review by samtoth — APPROVED** [review]

File: src/Synthetic/Categories/FullSubcategories.lagda.tree [hunk 14]
```diff
@@ -0,0 +1,157 @@
...
+
+\p{Recall that a [subtype](Foundations.Subtypes) of a type #{A} is a family of
+propositions #{φ} indexed by #{A}. Formally, this data is given by a family of types
+that we abusively denote #{φ : A \to \UU} together with a proof that each type #{φ a}
+is a proposition for all #{a : A}. From this data, one may construct a type
+#{Σ_{A} φ} with an embedding #{Σ_{A} φ \to A}.}
+
+\p{Given a crisp type #{A :^\flat \UU} and a family of propositions #{φ} indexed by
+#{\flat A}, the \em{full-subtype} is defined to be #{Σ_{A} \sharp \overline{φ}} where
+#{\overline{φ} : A \to \sharp UU} denotes the adjoint transpose of the family #{φ}
```
Comment (samtoth) [inline src/Synthetic/Categories/FullSubcategories.lagda.tree]:
```suggestion
#{\overline{φ} : A \to \sharp \UU} denotes the adjoint transpose of the family #{φ}
```

**Comment by samtoth** [comment]
Thanks for the contribution :)
